US04146630
2-Methyl-3-acetamido-5-tert.-butylphenyl benzyl ether
This is obtained, by acetylating 2-methyl-3-amino-5-tert.-butylphenyl benzyl ether with acetic anhydride in toluene, in the form of colorless crystals; m.p. 170°-172° C.

reactant | 2-methyl-3-amino-5-tert.-butylphenyl benzyl ether | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C(C)(C)C)N)C | C18H23NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-3-acetamido-5-tert.-butylphenyl benzyl ether | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C(C)(C)C)NC(C)=O)C | C20H25NO2
